US07189754B2
Methyl (2S,4EZ)-1-[(2′,3-dimethyl[1,1′-biphenyl]4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxylate
Following the general method as outlined in Example 11, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′,3-dimethyl[1,1′-biphenyl]-4-carboxylic acid, and methanol, the title compound was isolated as a mixture of two isomers in 81.4% purity by HPLC.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′,3-dimethyl[1,1′-biphenyl]-4-carboxylic acid | CC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)O)C | C15H14O2
reactant | methanol | CO | CH4O
product | Methyl (2S,4EZ)-1-[(2′,3-dimethyl[1,1′-biphenyl]4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxylate | CC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C(=O)OC)C | C22H24N2O4
